US07452878B2
58 mg (10% by mass) of 10% palladium-on-charcoal are introduced into a solution containing 580 mg of benzyl 3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-tert-butoxycarbonylaminopropionate in 8 ml of ethyl acetate. After bubbling hydrogen into the solution for 16 h at ambient temperature and 2 h at 50° C., the reaction medium is filtered through Celite and the solvents are evaporated off. The residue obtained is purified by chromatography on a column of silica and eluted with a 3/7 heptane/ethyl acetate mixture. 300 mg of 3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-tert-butoxycarbonylaminopropionic acid are obtained with a 61% yield. Melting point: 80° C.

reactant | benzyl 3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-tert-butoxycarbonylaminopropionate | 580 mg | C(C1=CC=CC=C1)(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C36H38N2O5
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 58 mg | [Pd] | Pd
product | 3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-tert-butoxycarbonylaminopropionic acid | 300 mg, 61% yield | C(C1=CC=CC=C1)(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)O)NC(=O)OC(C)(C)C | C29H32N2O5
